US07582642B2
(2-Fluoro-9H-purin-6-yl)-pyridin-3-ylmethyl-amine
To a stirred solution of 6-chloro-2-fluoropurine (0.9 g, 1 eq, 5.22 mmol) in n-BuOH (60 mL) under an argon atmosphere, cooled to −20° C., was added DIEA (2.5 mL, 2.75 eq, 14.35 mmol) followed by C-pyridin-3-yl-methylamine (0.58 mL, 1.1 eq, 5.69 mmol). The reaction mixture was stirred at −20° C. for 3 h, and then allowed to return to room temperature over 2 h, when TLC (CHCl3: MeOH; 90:10) indicated that the reaction had gone to completion. The solvent was evaporated in vacuo and the residue was purified by gradient column chromatography on silica gel, eluted with CHCl3:MeOH (97:3→90:10), to afford the title compound as a white solid. Yield: 1.08 g (85%). Mp 218-220° C. 1H-NMR (d6-DMSO, 250 MHz): δ4.65 (d, 2H, J=5.37 Hz, —HNCH2-Pyr), 7.34, 8.43, 8.57 (3×m, 4H, Pyr), 8.10 (s, 1H, —N═CH—NH—), 8.83 (bs, 1H, —HNCH2-Pyr), 13.07 (bs, 1H, —N═CH—NH—). FABMS m/z (relative intensity): 245 ([M+H]+, 40), 176 (27), 154 (100), 136 (74). Accurate Mass (M+H): Actual: 245.0951, Measured: 245.0942. Microanalysis (Expected: Measured) C11H9N6F .0.2H2O: C, 53.31; 54.03; H, 3.82; 3.83; N, 33.91; 32.74.

reactant | 6-chloro-2-fluoropurine | 5.22 mmol, 0.9 g, 1 eq | ClC1=C2NC=NC2=NC(=N1)F | C5H2ClFN4
reactant | DIEA | 14.35 mmol, 2.5 mL, 2.75 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | C-pyridin-3-yl-methylamine | 5.69 mmol, 0.58 mL, 1.1 eq | N1=CC(=CC=C1)CN | C6H8N2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | n-BuOH | 60 mL | CCCCO | C4H10O
solvent | MeOH | CO | CH4O
product | (2-Fluoro-9H-purin-6-yl)-pyridin-3-ylmethyl-amine | FC1=NC(=C2N=CNC2=N1)NCC=1C=NC=CC1 | C11H9FN6
